US07981903B2
A 4-neck 22 L round bottom flask equipped with a nitrogen inlet, mechanical stirrer and thermowell was charged with commercially available 5-methoxyindole (750 g, 5.1 mol) and acetic acid (3.75 L). The resulting solution was cooled to 10° C. by ice bath. Sodium cyanoborohydride (640 g, 10.2 mol, 2 equiv) was added portionwise to maintain the reaction temperature below 25° C. Upon the completion of addition, the reaction was stirred at room temperature for 3 hours and then water was added slowly (2.2 L). The mixture was basified to pH>12 with 50% NaOH (˜5.3 L, slow addition to avoid foaming, the temperature kept below 30° C.). The resulting mixture was extracted with dichloromethane (2×12 L). The combined organic layers were dried over sodium sulfate and evaporated in vacuo to give 5-(methyloxy)-2,3-dihydro-1 H-indole (760 g, >90% purity), which was used for the next step without further purification. 1H NMR (CDCl3, 300 MHz) 6 6.76 (s, 1 H), 6.60 (s, 2H), 3.54 (t, 2H), 3.01 (t, 2H).

reactant | 5-methoxyindole | 5.1 mol, 750 g | COC=1C=C2C=CNC2=CC1 | C9H9NO
reactant | acetic acid | 3.75 L | C(C)(=O)O | C2H4O2
reactant | Sodium cyanoborohydride | 10.2 mol, 640 g, 2 equiv | C(#N)[BH3-].[Na+]
reactant | NaOH | [OH-].[Na+]
solvent | water | O | H2O
product | 5-(methyloxy)-2,3-dihydro-1 H-indole | 760 g, >90% | COC=1C=C2CCNC2=CC1 | C9H11NO
